US05034547
Preparation of 1-(n-octylsulfonylamino)anthraquinone.
A 100ml round bottom flask, equipped with a magnetic stirrer and cooling condenser, was charged with 1-chloroanthraquinone (2.0g), n-octylsulfonamide (3.0g), copper acetate (0.8g), potassium carbonate (0.8g) and o-dichlorobenzene (25ml). This mixture was slowly heated to reflux. After 2.5 hours the reaction mixture was cooled and filtered. Methanol was then added to induce precipitation, and after filtration the solid was recrystallized from a mixture of dichloromethane and methanol to give a yellow product.

reactant | 1-chloroanthraquinone | 2.0g | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H7ClO2
reactant | n-octylsulfonamide | 3.0g | C(CCCCCCC)S(=O)(=O)N | C8H19NO2S
reactant | potassium carbonate | 0.8g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper acetate | 0.8g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | o-dichlorobenzene | 25ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(n-octylsulfonylamino)anthraquinone | C(CCCCCCC)S(=O)(=O)NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C22H25NO4S
